US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-(1-methyl-piperidin-4-ylmethyl)-acetamide
A mixture of 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (400 mg, 1.12 mmol), 2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-N-(1-methyl-piperidin-4-ylmethyl)-acetamide (295 mg, 1.2 q.) and piperidine (1.5 eq.) was stirred at rt for 96 hours. The reaction was concentrated and purified on a silica gel column to give the titled compound as a brown solid.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 1.12 mmol, 400 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 2-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-N-(1-methyl-piperidin-4-ylmethyl)-acetamide | 295 mg | C(=O)C1=C(C(=C(N1)C)CC(=O)NCC1CCN(CC1)C)C | C16H25N3O2
reactant | piperidine | 1.5 eq. | N1CCCCC1 | C5H11N
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-(1-methyl-piperidin-4-ylmethyl)-acetamide | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCC1CCN(CC1)C)C | C31H34Cl2N4O4S
